US08076336B2
6-Imidazol-1-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine
(6-Imidazol-1-ylpyridazin-3-yl)hydrazine (500 mg) were initially charged in a mixture of acetic acid (4 ml) and water (8 ml) with addition of sodium acetate (232 mg) at RT while stirring. Thereafter, the mixture was cooled to 0° C. and cyanogen bromide (330 mg) was introduced in portions. After stirring for 2.5 h, the mixture was left to stand overnight. After cooling to 0° C., the mixture was alkalized with 10 M sodium hydroxide solution and extracted repeatedly with EA. The combined EA phases were dried over sodium sulfate, filtered and concentrated. 66 mg of the title compound were isolated.

reactant | (6-Imidazol-1-ylpyridazin-3-yl)hydrazine | 500 mg | N1(C=NC=C1)C1=CC=C(N=N1)NN | C7H8N6
reactant | sodium acetate | 232 mg | C(C)(=O)[O-].[Na+]
reactant | cyanogen bromide | 330 mg | N#CBr | CBrN
reactant | sodium hydroxide | 10 M | [OH-].[Na+]
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | water | 8 ml | O | H2O
product | 6-Imidazol-1-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine | 66 mg | N1(C=NC=C1)C=1C=CC=2N(N1)C(=NN2)N | C8H7N7
